US07906179B2
Preparation of N-triethoxysilyl-methylpiperazine (silane 3)
905.3 g (10.5 mol) of piperazine and 945 ml of xylene (anhydrous) as solvent are charged to a 4 liter 4-neck flask and subsequently innertized with nitrogen. The batch is heated to a temperature of 100° C., in the course of which the piperazine dissolves completely. Added dropwise at this temperature are 446.3 g (2.1 mol) of chloromethyltriethoxysilane, over the course of 1 h with thorough stirring. Following the addition of about ⅓ of the amount of silane, piperazine hydrochloride is precipitated as a salt, but the suspension remains readily stirrable until the end of the reaction. After the end of the addition, stirring is continued for a further 15 min. Subsequently the reaction mixture is heated to 110° C. and the precipitated salt is filtered off on a preheated filter.

reactant | piperazine | 10.5 mol, 905.3 g | N1CCNCC1 | C4H10N2
reactant | chloromethyltriethoxysilane | 2.1 mol, 446.3 g | ClC[Si](OCC)(OCC)OCC | C7H17ClO3Si
reactant | silane | [SiH4] | H4Si
reactant | piperazine hydrochloride | Cl.N1CCNCC1
solvent | xylene | 945 ml | C=1(C(=CC=CC1)C)C | C8H10
product | N-triethoxysilyl-methylpiperazine | C(C)O[Si](N1C(CNCC1)C)(OCC)OCC | C11H26N2O3Si
